US05578627
To a solution of 0.49 g of 5-amino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole in 10 ml of ethyl acetate is added 0.42 g of di-tert-butyl dicarbonate, and they are subjected to reaction at 20°-25° C. for five hours. Water is added to the reaction mixture, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:n-hexane:ethyl acetate=3:2] to obtain 0.57 g of colorless, crystalline 5-tert-butoxycarbonylamino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole.

reactant | 5-amino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | 0.49 g | NC=1C=CC2=C(C(=NO2)OCC(CO)NC(=O)OC(C)(C)C)C1 | C15H21N3O5
reactant | di-tert-butyl dicarbonate | 0.42 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-tert-butoxycarbonylamino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC=1C=CC2=C(C(=NO2)OCC(CO)NC(=O)OC(C)(C)C)C1 | C20H29N3O7
